* PSpice Model Editor - Version 10.0.0

*$
* created using Model Editor release 10.0.0 on 10/23/03 at 17:55
*DEVICE=pbjn,NPN
.subckt pbjn C B E 
+ params:
+ IC_VBE=0 
+ IC_VCE=0 
+ AREA=1.0
+ IS=166.78E-17
+ BF=150
+ NF=1.074
+ VAF=78
+ IKF=0.5
+ ISE=3.92E-12
+ NE=1.776
+ BR=2.394
+ NR=1.074
+ VAR=500
+ IKR=100MEG
+ ISC=0.0
+ NC=1.0
+ RB=0.676
+ IRB=100MEG
+ RBM=0.676
+ RE=0.1
+ RC=0.654
+ CJE=22.25E-12
+ VJE=1.333
+ MJE=0.522
+ TF=454.4E-12
+ XTF=13.24
+ VTF=4.83
+ ITF=216.3E-3
+ CJC=8.37E-12
+ VJC=1.333
+ MJC=0.518
+ XCJC=0.5
+ TR=117.5E-9
+ VJS=0.7
+ MJS=0.5
+ XTB=2.34
+ EG=1.11
+ XTI=3.0
Q_pbjn C B E model4 {area} ic= {UIC(ic_vbe)}, {UIC(ic_vce)}
.model model4 npn
+ is={IS}
+ bf={BF}
+ nf={NF}
+ vaf={VAF}
+ ikf={IKF}
+ ise={ISE}
+ ne={NE}
+ br={BR}
+ nr={NR}
+ var={VAR}
+ ikr={IKR}
+ isc={ISC}
+ nc={NC}
+ rb={RB}
+ irb={IRB}
+ rbm={RBM}
+ re={RE}
+ rc={RC}
+ cje={CJE}
+ vje={VJE}
+ mje={MJE}
+ tf={TF}
+ xtf={XTF}
+ vtf={VTF}
+ itf={ITF}
+ cjc={CJC}
+ vjc={VJC}
+ mjc={MJC}
+ xcjc={XCJC}
+ tr={TR}
+ vjs={VJS}
+ mjs={MJS}
+ xtb={XTB}
+ eg={EG}
+ xti={XTI}
.ends pbjn
*$
* created using Model Editor release 10.0.0 on 10/23/03 at 17:35
*DEVICE=pdiode,D
.subckt pdiode AN CAT 
+ params:
+ AREA=1.0
+ IS=1.233E-6
+ RS=.033
+ N=2.6142
+ TT=1.5E-6
+ CJO=100E-12
+ VJ=0.7
+ BV=320
+ IBV=1
D_pdiode AN CAT model22 {area} 
.model model22 d
+ is={IS}
+ rs={RS}
+ n={N}
+ tt={TT}
+ cjo={CJO}
+ vj={VJ}
+ bv={BV}
+ ibv={IBV}
.ends pdiode
*$
