* source SNUBBER
V_V2         N22965 0 DC 1 
+PULSE -10 15 0 {trise} {tfall} 4u 10u
L_L1         N22438 N22361 L_L1 2u  
.model        l_L1 IND L=1 DEV=5%
X_Q1         N22361 N001271 0 awbirf640 PARAMS:    CGSO=1410p                  
+                 MTYPE=1
R_R3         N001271 N22965  10  
R_R2         N22361 N23530  10  
V_V1         N00203 0 100Vdc
C_C1         0 N23530  .05n  
R_R1         N00203 N22438 R_R1 25  
.model        R_R1 RES R=1 DEV=10%
.PARAM  trise=10n tfall=10n
